US06987104B2
N-hydroxy-N-[2-(2-oxazol-2-yl-pyrrolidine-1-carbonyl)-hexyl]-formamide
The title compound is prepared from 2-[(benzyloxy-formyl-amino)-methyl]-hexanoic acid D-7 (R=n-butyl) and 2-(S)-pyrrolidine-2-yl-oxazole E-5 (prepared as described in Procedure E) according to General Procedure D.

reactant | 2-[(benzyloxy-formyl-amino)-methyl]-hexanoic acid | C(C1=CC=CC=C1)ON(C=O)CC(C(=O)O)CCCC | C15H21NO4
reactant | 2-(S)-pyrrolidine-2-yl-oxazole | N1[C@@H](CCC1)C=1OC=CN1 | C7H10N2O
product | N-hydroxy-N-[2-(2-oxazol-2-yl-pyrrolidine-1-carbonyl)-hexyl]-formamide | ON(C=O)CC(CCCC)C(=O)N1C(CCC1)C=1OC=CN1 | C15H23N3O4
